US04003924
26.3 g of 1-nitro-anthraquinone (96%) is suspended in 110 g of formamide. If ammonia gas is introduced at 155° C, no more starting material may be detected by thin layer chromatography after 4 hours. After complete removal of the solvent by distillation under vacuum, 22.5 g of an 80% 1-amino-anthraquinone (80% of the theoretical yield) which contains 4%, by weight of 1-amino-anthraquinone imine are obtained.

reactant | 1-nitro-anthraquinone | 26.3 g | [N+](=O)([O-])C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H7NO4
reactant | ammonia | N | H3N
solvent | formamide | 110 g | C(=O)N | CH3NO
product | 1-amino-anthraquinone imine | NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=N)=O | C14H10N2O
